US08304419B2
4-chloro-N-({4-chloro-3-[(6-chloro-4-cyano-2-pyridinyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide
The previously described 2-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-6-chloro-4-pyridinecarbonitrile (0.040 g, 0.13 mmol) and 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid (0.023 g, 0.14 mmol) were employed in a similar process described herein to prepare the title compound (0.037 g, 64%) as a white solid after purification by Reverse-Phase HPLC (water:acetonitrile with 0.1% TFA) followed by neutralization. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 11.92 (br. s., 1H) 7.13-7.34 (m, 5H) 4.72 (d, J=5.91 Hz, 2H) 2.36 (s, 3H). ES-LCMS: m/z 453.9, 456.0 (M+1).

reactant | 2-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-6-chloro-4-pyridinecarbonitrile | 0.13 mmol, 0.040 g | NCC=1C(=C(C(=CC1)Cl)OC1=NC(=CC(=C1)C#N)Cl)F | C13H8Cl2FN3O
reactant | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 0.14 mmol, 0.023 g | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
product | 4-chloro-N-({4-chloro-3-[(6-chloro-4-cyano-2-pyridinyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide | 0.037 g, 64% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=NC(=CC(=C1)C#N)Cl)F)C | C18H11Cl3FN5O2
